US04808605
5.9 g of benzyl [[trans-4-(1-methyl-2-benzimidazolyl)cyclohexyl]methyl]methylcarbamate are dissolved in 600 ml of ethanol and hydrogenated at room temperature and normal pressure after the addition of 1 g of 5% palladium-on-active charcoal. The product. isolated in the usual manner, is chromatographed on 250 g of silica gel firstly with methylene chloride/methanol (1:1) and then with methanol/concentrated ammonium hydroxide (100:1) as the elution agent. There are obtained 3.3 g (85%) of 2-[trans-4-[(methylamino)methyl]cyclohexyl]-1-methyl-benzimidazole as a thick oil.

reactant | benzyl [[trans-4-(1-methyl-2-benzimidazolyl)cyclohexyl]methyl]methylcarbamate | 5.9 g | CN1C(=NC2=C1C=CC=C2)[C@@H]2CC[C@H](CC2)CN(C(OCC2=CC=CC=C2)=O)C | C24H29N3O2
solvent | ethanol | 600 ml | C(C)O | C2H6O
catalyst | palladium | 1 g | [Pd] | Pd
product | 2-[trans-4-[(methylamino)methyl]cyclohexyl]-1-methyl-benzimidazole | 3.3 g, 85% | CNC[C@@H]1CC[C@H](CC1)C1=NC2=C(N1C)C=CC=C2 | C16H23N3
